US07786165B2
4-(2,6-dimethylphenyl)indan-1-ol
4-(2,6-Dimethylphenyl)indan-1-one (2.00 g, 8.47 mmol) was dissolved in a mixture of tetrahydrofuran (20 mL) and methanol (10 mL), sodium borohydride (449 mg, 11.9 mmol) was added, and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-60% ethyl acetate/hexane) to give the title compound (1.54 g, yield 76%) as a colorless oil.

reactant | 4-(2,6-Dimethylphenyl)indan-1-one | 8.47 mmol, 2.00 g | CC1=C(C(=CC=C1)C)C1=C2CCC(C2=CC=C1)=O | C17H16O
reactant | sodium borohydride | 11.9 mmol, 449 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-(2,6-dimethylphenyl)indan-1-ol | 1.54 g, yield 76% | CC1=C(C(=CC=C1)C)C1=C2CCC(C2=CC=C1)O | C17H18O
